US04018774
The above mixture of ethyl glyoxylate and acetic acid (11.34 g, containing 70 mmol aldehyde) is dissolved in methanol (110 ml), N-methylhydroxylamine hydrochloride (5.8 g) and sodium acetate trihydrate (10.9 g) are added and the mixture is stirred at room temperature for 24 hours. It is then concentrated in vacuo, diluted with water and extracted with dichloromethane. The dichloromethane solution is then washed with a dilute sodium bicarbonate solution and water, dried over anhydrous magnesium sulfate, evaporated and distilled to afford α-ethoxy-carbonyl-N-methyl nitrone as a colorless solid (5.0 g), boiling point 80°-85° C/0.4 mm of Hg., melting point 43°-49° C. This is a mixture of the syn- and anti-isomers on the basis of the nmr spectrum.

reactant | ethyl glyoxylate | C(C=O)(=O)OCC | C4H6O3
reactant | acetic acid | 70 mmol, 11.34 g | C(C)(=O)O | C2H4O2
reactant | N-methylhydroxylamine hydrochloride | 5.8 g | Cl.CNO
reactant | sodium acetate trihydrate | 10.9 g | O.O.O.C(C)(=O)[O-].[Na+]
solvent | methanol | 110 ml | CO | CH4O
product | α-ethoxy-carbonyl-N-methyl nitrone | 5.0 g | C(C)OC=[N+]([O-])C=C=O | C5H7NO3
